US08012976B2
9-(1-Methyl-1H-1,2,4-triazol-5-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
To a solution of ethyl 3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (400 mg, 1.06 mmol) in methanol (8 mL) was added hydrazine monohydrate (0.5 mL), and the mixture was then stirred at 25° C. for 10 hr. The mixture was filtered to obtain a white solid (110 mg, yield 30%). LC-MS (ESI) m/z: 345 (M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 3.77 (s, 3H), 4.48-4.49 (d, J=6.4 Hz, 1H), 5.16-5.19 (d, J=6.4 Hz, 1H), 7.40-7.42 (m, 2H), 7.54-7.58 (t, 1H), 7.74 (s, 1H), 12.23 (s, 1H).

reactant | ethyl 3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 1.06 mmol, 400 mg | CN1N=CN=C1C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=CC=C1 | C21H20N4O3
reactant | hydrazine monohydrate | 0.5 mL | O.NN
solvent | methanol | 8 mL | CO | CH4O
product | 9-(1-Methyl-1H-1,2,4-triazol-5-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 110 mg, yield 30% | CN1N=CN=C1C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2 | C19H16N6O
